US07192968B2
5-[2-(tert-Butyldiphenylsilyloxy)-1,1-dimethylethyl]-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine
tert-Butylchlorodiphenylsilane (1.93 g) and imidazole (994 mg) were added to a solution of 5-(1,1-dimethyl-2-hydroxyethyl)-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridine (1.24 g) in N,N-dimethylformamide (5 ml) at room temperature, and the mixture was stirred overnight. Water and diethyl ether were added to the reaction mixture to separate an organic layer. The organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:2) to obtain the title compound (2.46 g) as a colorless oil.

reactant | tert-Butylchlorodiphenylsilane | 1.93 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | imidazole | 994 mg | N1C=NC=C1 | C3H4N2
reactant | 5-(1,1-dimethyl-2-hydroxyethyl)-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridine | 1.24 g | CC(CO)(C)N1CC2=C(CC1)N=CS2 | C10H16N2OS
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-[2-(tert-Butyldiphenylsilyloxy)-1,1-dimethylethyl]-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 2.46 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(C)(C)N1CC2=C(CC1)N=CS2 | C26H34N2OSSi
